US05473080
5. 3-(4-Fluorophenyl)allyl chloride
273.6 g (1.798 mol) of 1-(4-fluorophenyl)allyl alcohol were dissolved with stirring in 2,000 ml of methylene chloride. Subsequently, 101.0 g (2,770 mol) of hydrogen chloride were passed in over the course of 3 h, during which the temperature rose to 37° C. The mixture was then stirred for 1 h. After washing with 600 ml of ice-cold water and a mixture of 150 ml of saturated brine and 150 ml of water, the organic phase was dried over sodium sulfate and concentrated. 294.6 g (98%) of a brown oil were obtained.

reactant | 1-(4-fluorophenyl)allyl alcohol | 1.798 mol, 273.6 g | FC1=CC=C(C=C1)C(C=C)O | C9H9FO
reactant | hydrogen chloride | 2,770 mol, 101.0 g | Cl | ClH
solvent | methylene chloride | 2,000 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-Fluorophenyl)allyl chloride | 294.6 g, 98% | FC1=CC=C(C=C1)C=CCCl | C9H8ClF
